US07709473B2
6-tert-Butyl-8-(3-dimethylamino-propylamino)-2H-[1,2,4]triazolo[4,3-a]pyrazin-3-one
A solution of 23 mg of 6-tert-butyl-8-chloro-2H-[1,2,4]triazolo[4,3-a]pyrazin-3-one and 41 mg of 3-(dimethylamino)propylamine in DMF (0.5 mL) was heated to 80° C. After 16 h, the product was purified on a Shimadzu reverse-phase HPLC (Shimadzu LC-8A Preparatory LC; Waters Symmetry 30×50 mm column; solvent gradient=15-100% acetontrile/1% aqueous formic acid; flow rate=40 mL/min.) to provide the title compound as a white solid. MS (M+H+)=293.2.

reactant | 6-tert-butyl-8-chloro-2H-[1,2,4]triazolo[4,3-a]pyrazin-3-one | 23 mg | C(C)(C)(C)C=1N=C(C=2N(C1)C(NN2)=O)Cl | C9H11ClN4O
reactant | 3-(dimethylamino)propylamine | 41 mg | CN(CCCN)C | C5H14N2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 6-tert-Butyl-8-(3-dimethylamino-propylamino)-2H-[1,2,4]triazolo[4,3-a]pyrazin-3-one | C(C)(C)(C)C=1N=C(C=2N(C1)C(NN2)=O)NCCCN(C)C | C14H24N6O
